US06362341B1
Boc-L-Pro-OH and L-Phe-OBn.Hcl were treated with BOP and NMM in DMF to give, after aqueous workup and flash chromatography, Boc-L-Pro-L-Phe-OBn. This product was then treated with TFA and anisole, and the mixture was evaporated. The residue was dissolved in Et2O and washed with saturated aqueuos NaHCO3 and saturated aqueous NaCl. The Et2O layer was dried over anhydrous MgSO4, filtered, and the solvent evaporated to give L-Pro-L-Phe-OBn. The residue was treated with CH3SO2Cl and Et3N in CH2Cl2 to give, after aqueous workup and flash chromatography, N-(CH3SO2)-L-Pro-L-Phe-OBn. This product was then treated with 10% Pd on C in THF, and the mixture was shaken under 50 psi H2. The mixture was filtered through Celite, and evaporated to give the title compound as a clear oil.

reactant | Boc-L-Pro-OH | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | L-Phe-OBn | N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C16H17NO2
reactant | BOP | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | NMM | CN1CCOCC1 | C5H11NO
reactant | Boc-L-Pro-L-Phe-OBn | N1([C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C26H32N2O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | L-Pro-L-Phe-OBn | N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OCC2=CC=CC=C2)CCC1 | C21H24N2O3
